US05962458
4-Chloro-2-fluoro-phenol (264 mg, 1.8 mmol) was added to a solution of 7-benzyloxy-4-chloro-6-methoxyquinazoline hydrochloride (506 mg, 1.5 mmol), (prepared as described for the starting material in Example 1), in pyridine (8 ml) and the mixture heated at reflux for 45 minutes. The solvent was removed by evaporation and the residue partitioned between ethyl acetate and water. The organic layer was washed with 0.1M hydrochloric acid, water and brine, dried (MgSO4) and the solvent removed by evaporation. The solid residue was triturated with petroleum ether and the crude product collected by filtration and purified by flash chromatography eluting with methylene chloride/ether (9/1) to give 7-benzyloxy-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline (474 mg, 77%) as a cream solid.

reactant | 4-Chloro-2-fluoro-phenol | 1.8 mmol, 264 mg | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline hydrochloride | 1.5 mmol, 506 mg | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 7-benzyloxy-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline | 474 mg, 77% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)Cl)F)OC | C22H16ClFN2O3
